US08293743B2
Step-1 (4-Benzyl-2-methylsemicarbazide)
A solution of Benzyl isocyanate (1.85 mL, 15.0 mmol) in 7.5 mL of CHCl3 was treated with methyl hydrazine (795 μL, 15.0 mmol) at 0° C. and stirred at the same temperature for 2 h. The resulting mixture was dissolved in 1N HCl (200 mL) and the solution was washed with CHCl3 (50 mL×3). The aqueous phase was adjusted to pH 12 with 2 M NaOHaq and then extracted with CHCl3 (100 mL×3). The organic phase was dried over Na2SO4 and concentrated in vacuo. The residue was recrystallized from hexane-CHCl3 to afford (1.7 g, 9.5 mmol, 63%) as a colorless crystal. Rf=0.44 (CHCl3:MeOH=9:1); 1H NMR (400 MHz, DMSO-d6) δ 7.28-7.19 (5H, m), 4.47 (2H, s), 4.20 (2H, d, J=6.3 Hz), 2.96 (3H, s); 13C NMR (99.5 MHz, DMSO-d6) δ 159.3, 141.1, 128.1, 127.1, 126.5, 43.1, 37.8; LC/MS [ESI+] (m/z) 180.3 (M+1)+.

reactant | Benzyl isocyanate | 15.0 mmol, 1.85 mL | C(C1=CC=CC=C1)N=C=O | C8H7NO
reactant | methyl hydrazine | 15.0 mmol, 795 μL | CNN | CH6N2
reactant | MeOH | CO | CH4O
solvent | CHCl3 | 7.5 mL | C(Cl)(Cl)Cl | CHCl3
solvent | HCl | 1N, 200 mL | Cl | ClH
product | 4-Benzyl-2-methylsemicarbazide | C(C1=CC=CC=C1)NC(N(N)C)=O | C9H13N3O
